### PR TITLE
[Merged by Bors] - feat(Algebra): projective dimension of quotient regular sequence

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we proved that for finitely generated module over Noetherian local ring, quotient by regular sequence increase the projective dimension by exactly its length.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 1]
```diff
@@ -0,0 +1,334 @@
...
+    | bot => simp
+    | coe b =>
+      norm_cast
+      exact ENat.add_le_add_right_iff a b c
+
+lemma WithBot.add_one_le_zero_iff_eq_bot (a : WithBot ℕ∞) :
+    a + 1 ≤ 0 ↔ a = ⊥ := by
+  induction a with
+  | bot => simp
+  | coe a => simp [← WithBot.coe_one, ← WithBot.coe_add]
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: These shouldn't be here.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 2]
```diff
@@ -0,0 +1,334 @@
...
+
+end ENat
+
+universe v u
+
+variable (R : Type u) [CommRing R]
+
+local instance small_of_quotient' [Small.{v} R] (I : Ideal R) : Small.{v} (R ⧸ I) :=
+  small_of_surjective Ideal.Quotient.mk_surjective
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: This is already an instance in mathlib IIRC.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 3]
```diff
@@ -0,0 +1,334 @@
...
+
+variable {R} in
+lemma mem_quotSMulTop_annihilator (x : R) (M : Type*) [AddCommGroup M] [Module R M] :
+    x ∈ Module.annihilator R (QuotSMulTop x M) := by
+  refine mem_annihilator.mpr (fun m ↦ ?_)
+  rcases Submodule.Quotient.mk_surjective _ m with ⟨m', hm'⟩
+  simpa [← hm', ← Submodule.Quotient.mk_smul] using Submodule.smul_mem_pointwise_smul m' x ⊤ trivial
+
+variable {R} in
+lemma quotSMulTop_nontrivial' [IsLocalRing R] {x : R} (mem : x ∈ maximalIdeal R)
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
lemma nontrivial_quotSMulTop [IsLocalRing R] {x : R} (mem : x ∈ maximalIdeal R)
```
or `_of_mem_maximalIdeal`

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 4]
```diff
@@ -0,0 +1,334 @@
...
+
+universe w
+
+variable [UnivLE.{v, w}]
+
+instance hasExt_of_small' [Small.{v} R] : CategoryTheory.HasExt.{w} (ModuleCat.{v} R) :=
+  CategoryTheory.hasExt_of_enoughProjectives.{w} (ModuleCat.{v} R)
+
+instance ext_finite [Small.{v} R] [IsNoetherianRing R] (N M : ModuleCat.{v} R)
+    [Module.Finite R N] [Module.Finite R M] (i : ℕ) : Module.Finite R (Ext.{w} N M i) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Am I correct that the proof lemma is that bad is in part because of we don't have `ulift` commutes with `Ext` yet? If so can you add such a comment saying that we should fix this once we have that?

Edit: maybe not?

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 5]
```diff
@@ -0,0 +1,334 @@
...
+    rcases Module.Finite.exists_fin' R N with ⟨m, f', hf'⟩
+    let f := f'.comp ((Finsupp.mapRange.linearEquiv (Shrink.linearEquiv.{v} R R)).trans
+      (Finsupp.linearEquivFunOnFinite R R (Fin m))).1
+    have surjf : Function.Surjective f := by simpa [f] using hf'
+    let S : ShortComplex (ModuleCat.{v} R) := {
+      f := ModuleCat.ofHom.{v} (LinearMap.ker f).subtype
+      g := ModuleCat.ofHom.{v} f
+      zero := by
+        ext x
+        simp }
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
    let S : ShortComplex (ModuleCat.{v} R) :=
    { f := ModuleCat.ofHom.{v} (LinearMap.ker f).subtype
      g := ModuleCat.ofHom.{v} f
      zero := by
        ext x
        simp }
```
Or the last `}` should be on the next line.
Same below.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 6]
```diff
@@ -0,0 +1,334 @@
...
+      intro x
+      simp [S]
+    have S_exact : S.ShortExact := {
+      exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact S).mpr S_exact'
+      mono_f := (ModuleCat.mono_iff_injective S.f).mpr (LinearMap.ker f).injective_subtype
+      epi_g := (ModuleCat.epi_iff_surjective S.g).mpr surjf}
+    let _ : Module.Finite R S.X₂ := by
+      simp [S, Module.Finite.equiv (Shrink.linearEquiv R R).symm, Finite.of_fintype (Fin m)]
+    let _ : Module.Free R (Shrink.{v, u} R) :=  Module.Free.of_equiv (Shrink.linearEquiv R R).symm
+    let _ : Module.Free R S.X₂ := Module.Free.finsupp R (Shrink.{v, u} R) _
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: These are unnecessary if you add 
```lean
instance {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] [Small.{u} M]
    [Module.Free R M] : Module.Free R (Shrink.{u} M) :=
  .of_equiv (Shrink.linearEquiv _ _).symm

instance {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] [Small.{u} M]
    [Module.Finite R M] : Module.Finite R (Shrink.{u} M) :=
  .of_surjective _ (Shrink.linearEquiv _ _).symm.surjective
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 7]
```diff
@@ -0,0 +1,334 @@
...
+    have proj := ModuleCat.projective_of_categoryTheory_projective S.X₂
+    have : Subsingleton (Ext S.X₂ M (n + 1)) :=
+      subsingleton_of_forall_eq 0 Ext.eq_zero_of_projective
+    have epi := (Ext.contravariant_sequence_exact₃' S_exact M n (n + 1) (add_comm 1 n)).epi_f
+      ((AddCommGrpCat.of (Ext S.X₂ M (n + 1))).isZero_of_subsingleton.eq_zero_of_tgt _)
+    have surj : Function.Surjective (S_exact.extClass.precomp M (add_comm 1 n)) :=
+      (AddCommGrpCat.epi_iff_surjective _).mp epi
+    let f : Ext S.X₁ M n →ₗ[R] Ext S.X₃ M (n + 1) := {
+      __ := S_exact.extClass.precomp M (add_comm 1 n)
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
    let f : Ext S.X₁ M n →ₗ[R] Ext S.X₃ M (n + 1) :=
    { __ := S_exact.extClass.precomp M (add_comm 1 n)
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 8]
```diff
@@ -0,0 +1,334 @@
...
+      zero := by
+        ext x
+        simp }
+    have S_exact' : Function.Exact (ConcreteCategory.hom S.f) (ConcreteCategory.hom S.g) := by
+      intro x
+      simp [S]
+    have S_exact : S.ShortExact := {
+      exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact S).mpr S_exact'
+      mono_f := (ModuleCat.mono_iff_injective S.f).mpr (LinearMap.ker f).injective_subtype
+      epi_g := (ModuleCat.epi_iff_surjective S.g).mpr surjf}
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
    have S_exact : S.ShortExact :=
     { exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact S).mpr S_exact'
      mono_f := (ModuleCat.mono_iff_injective S.f).mpr (LinearMap.ker f).injective_subtype
      epi_g := (ModuleCat.epi_iff_surjective S.g).mpr surjf }
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 9]
```diff
@@ -0,0 +1,334 @@
...
+    let f := f'.comp ((Finsupp.mapRange.linearEquiv (Shrink.linearEquiv.{v} R R)).trans
+      (Finsupp.linearEquivFunOnFinite R R (Fin m))).1
+    have surjf : Function.Surjective f := by simpa [f] using hf'
+    let S : ShortComplex (ModuleCat.{v} R) := {
+      f := ModuleCat.ofHom.{v} (LinearMap.ker f).subtype
+      g := ModuleCat.ofHom.{v} f
+      zero := by
+        ext x
+        simp }
+    have S_exact' : Function.Exact (ConcreteCategory.hom S.f) (ConcreteCategory.hom S.g) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
    have S_exact' : Function.Exact S.f S.g := by
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 10]
```diff
@@ -0,0 +1,334 @@
...
+variable [UnivLE.{v, w}]
+
+instance hasExt_of_small' [Small.{v} R] : CategoryTheory.HasExt.{w} (ModuleCat.{v} R) :=
+  CategoryTheory.hasExt_of_enoughProjectives.{w} (ModuleCat.{v} R)
+
+instance ext_finite [Small.{v} R] [IsNoetherianRing R] (N M : ModuleCat.{v} R)
+    [Module.Finite R N] [Module.Finite R M] (i : ℕ) : Module.Finite R (Ext.{w} N M i) := by
+  induction i generalizing N
+  · exact Module.Finite.equiv ((Ext.linearEquiv₀ (R := R)).trans ModuleCat.homLinearEquiv).symm
+  · rename_i n ih _
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Please use `induction i generalizing N with` instead of `rename_i`.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 11]
```diff
@@ -0,0 +1,334 @@
...
+      map_smul' r x := by simp }
+    exact Module.Finite.of_surjective f surj
+
+variable {R}
+
+variable [IsNoetherianRing R] [Small.{v} R]
+
+lemma ext_vanish_of_for_all_finite (M : ModuleCat.{v} R) (n : ℕ) [Module.Finite R M]
+    (h : ∀ L : ModuleCat.{v} R, Module.Finite R L →  Subsingleton (Ext.{w} M L n)) :
+    ∀ N : ModuleCat.{v} R, Subsingleton (Ext.{w} M N n) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
lemma subsingleton_ext_of_forall_finite (M : ModuleCat.{v} R) (n : ℕ) [Module.Finite R M]
    (h : ∀ L : ModuleCat.{v} R, Module.Finite R L → Subsingleton (Ext.{w} M L n))
    (N : ModuleCat.{v} R) : Subsingleton (Ext.{w} M N n) := by
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 12]
```diff
@@ -0,0 +1,334 @@
...
+      simp [S]
+    have S_exact : S.ShortExact := {
+      exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact S).mpr S_exact'
+      mono_f := (ModuleCat.mono_iff_injective S.f).mpr (LinearMap.ker f).injective_subtype
+      epi_g := (ModuleCat.epi_iff_surjective S.g).mpr surjf}
+    let _ : Module.Finite R S.X₂ := by
+      simp [S, Module.Finite.equiv (Shrink.linearEquiv R R).symm, Finite.of_fintype (Fin m)]
+    let _ : Module.Free R (Shrink.{v, u} R) :=  Module.Free.of_equiv (Shrink.linearEquiv R R).symm
+    let _ : Module.Free R S.X₂ := Module.Free.finsupp R (Shrink.{v, u} R) _
+    have proj := ModuleCat.projective_of_categoryTheory_projective S.X₂
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 13]
```diff
@@ -0,0 +1,334 @@
...
+    have : Subsingleton (Ext S.X₂ M (n + 1)) :=
+      subsingleton_of_forall_eq 0 Ext.eq_zero_of_projective
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: This should be its own instance.
(arguably should replace `Ext.eq_zero_of_projective`)

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 14]
```diff
@@ -0,0 +1,334 @@
...
+    have epi := (Ext.contravariant_sequence_exact₃' S_exact M n (n + 1) (add_comm 1 n)).epi_f
+      ((AddCommGrpCat.of (Ext S.X₂ M (n + 1))).isZero_of_subsingleton.eq_zero_of_tgt _)
+    have surj : Function.Surjective (S_exact.extClass.precomp M (add_comm 1 n)) :=
+      (AddCommGrpCat.epi_iff_surjective _).mp epi
+    let f : Ext S.X₁ M n →ₗ[R] Ext S.X₃ M (n + 1) := {
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I think this surjection `Ext (ModuleCat.of R (LinearMap.ker f)) M n →ₗ[R] Ext N M (n + 1)` is useful enough to get its own definition (also since you seem be using this below as well).

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 15]
```diff
@@ -0,0 +1,334 @@
...
+def Ideal.smulTopLinearEquiv (I : Ideal R) (e : M ≃ₗ[R] N) :
+    (M ⧸ I • (⊤ : Submodule R M)) ≃ₗ[R] (N ⧸ I • (⊤ : Submodule R N)) where
+  __ := Ideal.smulTopLinearMap I e
+  invFun := Ideal.smulTopLinearMap I e.symm
+  left_inv y := by
+    induction y using Submodule.Quotient.induction_on
+    simp [smulTopLinearMap]
+  right_inv y := by
+    induction y using Submodule.Quotient.induction_on
+    simp [smulTopLinearMap]
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: These shouldn't be here.
(And I'm not sure if we need the first one as a separate def)

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: No, this indeed should be done by dimension shifting (highly depeneding on `IsNoetherianRing`). 

Also do you have a better place for it? I am needing this in many places considering `Ext => Ext` induced by smul an element is not surjective.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: The only disadvantage of missing ULift only involve some none-invariant under arbitrary linear equiv. As far as the PRs I opened, there isn't things that really being bad because of this. Only some definitions are not invariant enough under universe free equivalence.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: The good news it I am trying to add this as mentioned in [#mathlib4 > &#96;Ext&#96; functor under semi-linear equiv](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60Ext.60.20functor.20under.20semi-linear.20equiv/with/555721961)

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 10 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: This is for `induction'` right? Only reasonable change is to `| "name" variable =>`

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I separated this out as it is also used in various places, see PR #32081

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I address most of the comments there, but for the ones adding appropriate instance I haven't done yet. May I ask you to port it there?

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 14 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I have no idea in what general form it should be, this SES is from plain linear map, but there are usages driectly from `Epi` instance and use `kernel`, I don't know how to unify...

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: It indeed already exist, I am refactoring all the things so this would be resolved.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 16]
```diff
@@ -0,0 +1,189 @@
...
+open CategoryTheory Abelian IsLocalRing Module RingTheory.Sequence
+
+section
+
+variable {R}
+
+variable [IsNoetherianRing R] [Small.{v} R]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma subsingleton_ext_of_forall_finite (M : ModuleCat.{v} R) (n : ℕ) [Module.Finite R M]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Can this be moved?

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 17]
```diff
@@ -0,0 +1,189 @@
...
+          ((AddCommGrpCat.of _).isZero_of_subsingleton.eq_zero_of_src _)
+          ((AddCommGrpCat.of _).isZero_of_subsingleton.eq_zero_of_tgt _)
+        exact (@asIso _ _ _ _ _ isi).addCommGroupIsoToAddEquiv.subsingleton_congr
+      simp only [← this]
+      apply hn S.X₁
+      simpa [this] using h
+
+end
+
+variable {R} [IsLocalRing R] [IsNoetherianRing R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I have the impression `{R}` is redundant here.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 18]
```diff
@@ -0,0 +1,189 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+lemma projectiveDimension_quotSMulTop_eq_succ_of_isSMulRegular [Small.{v} R] (M : ModuleCat.{v} R)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: We are missing a namespace.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 19]
```diff
@@ -0,0 +1,189 @@
...
+
+variable [IsNoetherianRing R] [Small.{v} R]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma subsingleton_ext_of_forall_finite (M : ModuleCat.{v} R) (n : ℕ) [Module.Finite R M]
+    (h : ∀ L : ModuleCat.{v} R, Module.Finite R L →  Subsingleton (Ext M L n)) :
+    ∀ N : ModuleCat.{v} R, Subsingleton (Ext M N n) := by
+  induction n generalizing M with
+  | zero =>
+    have : Subsingleton (M ⟶ M) := @Ext.homEquiv₀.symm.subsingleton _ _ (h M ‹_›)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Can you use `:=` instead of `@`?

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 20]
```diff
@@ -0,0 +1,189 @@
...
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.Linear
+public import Mathlib.RingTheory.LocalRing.Module
+public import Mathlib.RingTheory.Regular.Category
+public import Mathlib.RingTheory.Regular.RegularSequence
+
+/-!
+
+# ProjectiveDimension of quotient by regular element
+
+For `M` a finitely generated module over Noetherian local ring `R` and an `R`-regular element `x`,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Please add an actual declaration.

Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
For `M` a finitely generated module over Noetherian local ring `R` and an `M`-regular element `x`,
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 21]
```diff
@@ -0,0 +1,189 @@
...
+  | bot =>
+    simpa only [le_bot_iff, projectiveDimension_eq_bot_iff,
+      ModuleCat.isZero_iff_subsingleton, WithBot.add_eq_bot, WithBot.one_ne_bot, or_false]
+      using sub.symm
+  | coe N =>
+    induction N with
+    | top => simp
+    | coe n => simpa using aux n
+
+lemma projectiveDimension_quotient_regular_sequence [Small.{v} R] (M : ModuleCat.{v} R)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: The name should contain `IsWeaklyRegular` I think.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 19 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: Probably no, instance synth can't fill in M and M fg, but probably I can use `.subsingleton_congr`

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 16 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I originally think `Algebra.Category.ModuleCat.ProjectiveDimension` would be a good place but it didn't import `IsNoetherianRing` :(

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean (hunk 18 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/ProjectiveDimension.lean]: I added `ModuleCat`, I think it is appropriate here.

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 22]
```diff
@@ -0,0 +1,191 @@
...
+public import Mathlib.RingTheory.Regular.Category
+public import Mathlib.RingTheory.Regular.RegularSequence
+
+/-!
+
+# ProjectiveDimension of quotient by regular element
+
+For `M` a finitely generated module over Noetherian local ring `R` and an `M`-regular element `x`
+contained in the unique maximal ideal of `R`, `projdim(M/xM) = projdim(M) + 1`.
+The analogus version for quotient regular sequence is also provided.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
The analogous version for quotient regular sequence is also provided.
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 23]
```diff
@@ -0,0 +1,191 @@
...
+
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean:23]:
```suggestion
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 24]
```diff
@@ -0,0 +1,191 @@
...
+
+# Main Results
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
## Main Results
```

File: Mathlib/RingTheory/Regular/ProjectiveDimension.lean [hunk 25]
```diff
@@ -0,0 +1,191 @@
...
+
+namespace ModuleCat
+
+section
+
+variable [IsNoetherianRing R]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma hasProjectiveDimensionLT_of_forall_finite (M : ModuleCat.{v} R) (n : ℕ) [Module.Finite R M]
+    (h : ∀ L : ModuleCat.{v} R, Module.Finite R L →  Subsingleton (Ext M L n)) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Regular/ProjectiveDimension.lean]:
```suggestion
    (h : ∀ L : ModuleCat.{v} R, Module.Finite R L → Subsingleton (Ext M L n)) :
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
